US07569568B2
Diethylzinc (1.0 M in hexanes, 69 mL, 69 mmol) was added to a solution of tert-butyl-(4-isopropenyl-phenoxy)-dimethyl-silane (6.85 g, 27.6 mmol) in dichloroethane at 0° C. Diiodomethane (11.2 mL, 138 mmol) was then added dropwise to the solution and the resultant mixture was stirred at 0° C. for 0.5 h and allowed to warm to rt for 2 h. The opaque mixture was quenched with saturated aqueous NH4Cl. The aqueous phase was extracted with CH2Cl2 and the combined organic layers were washed with saturated aqueous NaHCO3. The organic layers were dried over sodium sulfate, filtered through celite, and concentrated. The crude TBS ether was dissolved in THF (50 mL) and TBAF (1.0 M in THF, 28 mL, 28 mmol) was added at rt. The solution was stirred for 2 h and then quenched with aqueous 1.0 M HCl. The aqueous phase was extracted with ethyl acetate and the combined organic layers were washed with saturated NaHCO3. The organic layers were dried over sodium sulfate, filtered and concentrated. Purification by silica-gel chromatography (1% 2-propanol/12% ethyl acetate in hexanes) provided 4-(1-methyl-cyclopropyl)-phenol (2.77 g, 68%) as a white solid.

reactant | Diethylzinc | 69 mmol, 1.0 M, 69 mL | C(C)[Zn]CC
reactant | tert-butyl-(4-isopropenyl-phenoxy)-dimethyl-silane | 27.6 mmol, 6.85 g | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)C(=C)C | C15H24OSi
reactant | Diiodomethane | 138 mmol, 11.2 mL | ICI | CH2I2
reactant | TBAF | 28 mmol, 1.0 M, 28 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-(1-methyl-cyclopropyl)-phenol | 2.77 g, 68% | CC1(CC1)C1=CC=C(C=C1)O | C10H12O
